### PR TITLE
A matrix ring is a central simple algebra

### PR DESCRIPTION
**Pull request by trivial1711**
This was a pain because the API for `RingCon` is missing some things, like the ability to simplify `⊥ x y` and the fact that `r x y ↔ r 0 (y - x)`.

Once two-sided ideals are added to mathlib, I can revisit this.

### CODE REVIEW

File: FLT/for_mathlib/IsCentralSimple.lean [hunk 1]
```diff
@@ -38,7 +56,51 @@ theorem MatrixRing.isCentralSimple (ι : Type v) (hι : Fintype ι) (hnonempty :
     convert mem_range_scalar_of_commute_stdBasisMatrix (M := d) fun i j hij => hd _
     simp_rw [Set.mem_range, eq_comm, algebraMap_eq_diagonal, Pi.algebraMap_def,
       Algebra.id.map_eq_self, scalar_apply]
-  is_simple := sorry
+  is_simple.exists_pair_ne := by
+    use ⊥, ⊤
+    apply_fun (· 0 1)
+    convert false_ne_true
+    exact iff_false_iff.mpr zero_ne_one
```
Comment (Ruben-VandeVelde) [inline FLT/for_mathlib/IsCentralSimple.lean:63]: Please make a note to clean this up after https://github.com/leanprover-community/mathlib4/pull/12860 lands

File: FLT/for_mathlib/IsCentralSimple.lean [hunk 2]
```diff
@@ -38,7 +56,51 @@ theorem MatrixRing.isCentralSimple (ι : Type v) (hι : Fintype ι) (hnonempty :
...
+        ext i' j'
+        simp [diagonal, sum_apply, mul_apply, stdBasisMatrix, ite_and, eq_comm]
+      have r_zero_one : r 0 1 := by
+        simpa [hij, Finset.sum_const_zero, sum_eq_scalar] using
+          r.mul r_zero_sum (r.refl (scalar ι (x i j)⁻¹))
+      have forall_r_zero a : r 0 a := by simpa using r.mul r_zero_one (r.refl a)
+      have forall_forall_r a b : r a b := by simpa using r.add (forall_r_zero (b - a)) (r.refl a)
+      apply RingCon.ext
+      simp [forall_forall_r]
+      trivial
```
Comment (Ruben-VandeVelde) [inline FLT/for_mathlib/IsCentralSimple.lean:103]:
```suggestion
      simp [forall_forall_r, Prop.top_eq_true]
```
(I'll see if I can make that a simp lemma)

File: FLT/for_mathlib/IsCentralSimple.lean [hunk 3]
```diff
@@ -38,7 +56,51 @@ theorem MatrixRing.isCentralSimple (ι : Type v) (hι : Fintype ι) (hnonempty :
...
+        · convert RingCon.add r (r.refl x) using 1
+          rw [add_sub_cancel, add_zero]
+      rw [this, h, sub_eq_zero, eq_comm]
+      rfl
+    · right
+      obtain ⟨x, hx⟩ := h
+      have x_ne_zero : x ≠ 0 := by
+        rintro rfl
+        rw [eq_true (r.refl 0)] at hx
+        simp at hx
```
Comment (Ruben-VandeVelde) [inline FLT/for_mathlib/IsCentralSimple.lean:83]: Could be
```suggestion
        simp [eq_true (r.refl 0)] at hx
```

File: blueprint/src/chapter/ch06automorphicrepresentations.tex [hunk 4]
```diff
@@ -32,31 +32,33 @@ \section{Central simple algebras}
     \label{MatrixRing.isCentralSimple}
     \lean{MatrixRing.isCentralSimple}
     \uses{IsCentralSimple}
+    \leanok
```
Comment (Ruben-VandeVelde) [inline blueprint/src/chapter/ch06automorphicrepresentations.tex:35]: leanok should go in the proof environment

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

**Comment by trivial1711** [comment]
Hello, I fixed it. Thanks.

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

File: blueprint/src/chapter/ch06automorphicrepresentations.tex [hunk 5]
```diff
@@ -20,7 +20,7 @@ \section{Central simple algebras}
     \label{IsCentralSimple}
     \lean{IsCentralSimple}
     \leanok
-A \emph{central simple algebra} over a field $K$ is a $K$-algebra $D$ such that $K$ is the centre of $D$
+A \emph{central simple algebra} over a field $K$ is a nonzero $K$-algebra $D$ such that $K$ is the centre of $D$
```
Comment (kbuzzard) [inline blueprint/src/chapter/ch06automorphicrepresentations.tex:23]: When writing this, I decided that K being a field and K being the centre of D implied that D was nonzero, but there's no harm clarifying this.

**Comment by kbuzzard** [comment]
Thanks a lot!
